US04294842
2-(4-Chlorophenylthio)acetamidoxime (21.7 g, 0.1 mol) was stirred in toluene (150 ml) whilst a solution of chloroacetyl chloride (11.3 g, 0.1 mol) in toluene (50 ml) was added dropwise over 20 minutes. The thick suspension was refluxed for 1 hour to give a black mixture which was cooled and then extracted with water and ether. The ether extracts were evaporated to give a brown oil which was chromatographed on silica gel (200 g) and eluted with ether/hexane (2:3) to give 5-chloromethyl-3-(4-chlorophenylthiomethyl)-1,2,4-oxadiazole.

reactant | 2-(4-Chlorophenylthio)acetamidoxime | 0.1 mol, 21.7 g | ClC1=CC=C(C=C1)SCC(N)=NO | C8H9ClN2OS
reactant | chloroacetyl chloride | 0.1 mol, 11.3 g | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloromethyl-3-(4-chlorophenylthiomethyl)-1,2,4-oxadiazole | ClCC1=NC(=NO1)CSC1=CC=C(C=C1)Cl | C10H8Cl2N2OS
